US05157124
1,3-Dihydro-1-[4-(dimethylamino)-2-butynyl]-3-methyl-2H-imidazol-2-one
This product, a liquid, was prepared according to Example 1, Part B by substituting 1,3-dihydro-1-methyl-3-(2-propynyl)-2H-imidazol-2-one for 1-methyl-3-(2-propynyl)-2-imidazolidinone and dimethylamine for pyrrolidine.

reactant | 1-methyl-3-(2-propynyl)-2-imidazolidinone | CN1C(N(CC1)CC#C)=O | C7H10N2O
reactant | dimethylamine | CNC | C2H7N
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 1,3-Dihydro-1-[4-(dimethylamino)-2-butynyl]-3-methyl-2H-imidazol-2-one | CN(CC#CCN1C(N(C=C1)C)=O)C | C10H15N3O
